US07863443B2
Synthesis of 2,2,2-trifluoro-N-(5-phenylpent-1-en-3-yl)acetamide
A Schlenk flask under argon was charged with {Ir(cod)Cl}2 (10 mg, 15 μmol, 3 mol %) and ligand (3,5-dioxa-4-phospha-cyclohepta[2,1-a; 3,4-a′]diphenyl-4-en)-dibenzo[b,f]azepine (12 mg, 30 μmol, 6 mol %). N,N-Dimethylformamide (2 mL) was added and the reaction mixture was stirred at 23° C. for 15 min. 5-Phenylpent-1-en-3-ol (81 mg, 0.50 mmol, 1 eq.) was added via syringe followed by the addition of solid sulfamic acid (49 mg, 0.50 mmol, 1 eq.). The resulting reaction mixture was heated to 50° C. Conversion was checked by disappearance of the starting material on TLC and/or by measuring 1H-NMR of an aliquot taken from the reaction mixture. After completion of the reaction (usually 3-4 hr), the reaction mixture was carefully concentrated and cooled to 23° C. The resulting brownish oil was redissolved in methylene chloride (2 mL), and trifluoroacetic anhydride (315 mg, 1.50 mmol, 3 eq.) and anhydrous potassium carbonate (solid, 276 mg, 2.00 mmol, 4 equiv) were added at 0° C. The reaction mixture was continued to stir for 8 hr at 23° C. Subsequently, it was partitioned between methylene chloride (10 mL) and water (10 mL). The aqueous layer was extracted with methylene chloride (3×15 mL). The combined organic layers were dried (sodium sulfate) and concentrated under reduced pressure. Purification of the residue by flash chromatography on silica gel using hexanes/ethyl acetate as an eluent afforded the title compound (91 mg, 0.36 mmol, yield 71%) as a yellow oil.

reactant | 5-Phenylpent-1-en-3-ol | 0.50 mmol, 81 mg, 1 eq. | C1(=CC=CC=C1)CCC(C=C)O | C11H14O
reactant | sulfamic acid | 0.50 mmol, 49 mg, 1 eq. | S(N)(O)(=O)=O | H3NO3S
reactant | trifluoroacetic anhydride | 1.50 mmol, 315 mg, 3 eq. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium carbonate | 2.00 mmol, 276 mg, 4 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-Dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2,2,2-trifluoro-N-(5-phenylpent-1-en-3-yl)acetamide | 0.36 mmol, 91 mg, yield 71% | FC(C(=O)NC(C=C)CCC1=CC=CC=C1)(F)F | C13H14F3NO
